US08012976B2
(E)-4-(Benzylideneamino)-6-chloroisobenzofuran-1(3H)-one
A mixture of 4-amino-6-chloroisobenzofuran-1(3H)-one (1 g, 5.46 mmol), benzaldehyde (0.72 g, 6.79 mmol) and magnesium sulfate (6 g) in dichloromethane (80 mL) was stirred at reflux overnight. The mixture was evaporated under reduced pressure and the residue was dried in vacuum. A crude product was obtained (740 mg) and used in next step without further purification.

reactant | 4-amino-6-chloroisobenzofuran-1(3H)-one | 5.46 mmol, 1 g | NC1=C2COC(C2=CC(=C1)Cl)=O | C8H6ClNO2
reactant | benzaldehyde | 6.79 mmol, 0.72 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | magnesium sulfate | 6 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | (E)-4-(Benzylideneamino)-6-chloroisobenzofuran-1(3H)-one | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC(=C1)Cl)=O | C15H10ClNO2
